US05021412
(2) 3-Fluoro-4-(2,2,2-trifluoroethoxy)benzyl isothiocyanate
The crude 3-fluoro-4-(2,2,2-trifluoroethoxy)benzylamine (7.54 g) was added dropwise to a mixture of 7.45 g of DCC, 15 ml of carbon disulfide and 30 ml of diethyl ether with stirring at -10° C. The temperature of the mixture was returned to room temperature, and it was left to stand for 3 hours. The reaction mixture was filtered, and the residue was washed with ethyl ether and combined with the filtrate. The solvent was evaporated under reduced pressure. The resulting oily product was purified by column chromatography (silica gel; developing

reactant | 3-fluoro-4-(2,2,2-trifluoroethoxy)benzylamine | 7.54 g | FC=1C=C(CN)C=CC1OCC(F)(F)F | C9H9F4NO
reactant | DCC | 7.45 g | C1CCC(CC1)N=C=NC2CCCCC2 | C13H22N2
reactant | carbon disulfide | 15 ml | C(=S)=S | CS2
solvent | diethyl ether | 30 ml | C(C)OCC | C4H10O
product | 3-Fluoro-4-(2,2,2-trifluoroethoxy)benzyl isothiocyanate | FC=1C=C(CN=C=S)C=CC1OCC(F)(F)F | C10H7F4NOS
